* Subcircuit lm7805
.subckt lm7805 net-_q16-pad1_ net-_q10-pad3_ net-_q12-pad1_ 
* c:\users\malli\esim\src\subcircuitlibrary\lm7805\lm7805.cir
.include PNP.lib
.include NPN.lib
r1  net-_q16-pad1_ net-_q1-pad2_ 100k
r2  net-_q16-pad1_ net-_q1-pad1_ 500
r3  net-_q1-pad3_ net-_q2-pad2_ 3.3k
r4  net-_q2-pad2_ net-_q10-pad2_ 2.7k
* u1  net-_q10-pad3_ net-_q1-pad2_ zener
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
r5  net-_q10-pad2_ net-_q10-pad3_ 500
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
q4 net-_q2-pad3_ net-_q3-pad1_ net-_q3-pad2_ Q2N2222
r6  net-_q2-pad3_ net-_q3-pad1_ 1k
q3 net-_q3-pad1_ net-_q3-pad2_ net-_q10-pad3_ Q2N2222
r7  net-_q3-pad2_ net-_q10-pad3_ 6k
q6 net-_c1-pad2_ net-_q3-pad2_ net-_q6-pad3_ Q2N2222
r10  net-_q6-pad3_ net-_q10-pad3_ 1k
q7 net-_q2-pad1_ net-_q12-pad1_ net-_q7-pad3_ Q2N2222
q8 net-_q7-pad3_ net-_q12-pad3_ net-_q2-pad3_ Q2N2222
q12 net-_q12-pad1_ net-_q12-pad2_ net-_q12-pad3_ Q2N2222
r12  net-_q12-pad3_ net-_q2-pad3_ 6k
r9  net-_q2-pad3_ net-_c1-pad2_ 20k
q5 net-_q2-pad1_ net-_q2-pad1_ net-_q5-pad3_ Q2N2907A
q9 net-_q10-pad1_ net-_q2-pad1_ net-_q9-pad3_ Q2N2907A
r8  net-_q16-pad1_ net-_q5-pad3_ 100
r11  net-_q16-pad1_ net-_q9-pad3_ 50
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
q11 net-_c1-pad1_ net-_c1-pad2_ net-_q11-pad3_ Q2N2222
q13 net-_c1-pad1_ net-_q11-pad3_ net-_q10-pad3_ Q2N2222
r13  net-_q11-pad3_ net-_q10-pad3_ 6k
c1  net-_c1-pad1_ net-_c1-pad2_ 30p
r14  net-_q10-pad1_ net-_c1-pad1_ 6k
q14 net-_q10-pad3_ net-_c1-pad1_ net-_q10-pad1_ Q2N2907A
q15 net-_q10-pad1_ net-_q15-pad2_ net-_q12-pad1_ Q2N2222
r17  net-_q12-pad2_ net-_q10-pad3_ 5k
r16  net-_q12-pad1_ net-_q12-pad2_ 1.385k
r15  net-_q16-pad1_ net-_r15-pad2_ 10k
* u2  net-_q15-pad2_ net-_r15-pad2_ zener
q16 net-_q16-pad1_ net-_q10-pad1_ net-_q16-pad3_ Q2N2222
q17 net-_q16-pad1_ net-_q16-pad3_ net-_q17-pad3_ Q2N2222
r18  net-_q16-pad3_ net-_q12-pad1_ 200
r20  net-_q17-pad3_ net-_q12-pad1_ 0.3
r19  net-_q17-pad3_ net-_q15-pad2_ 240
a1 net-_q10-pad3_ net-_q1-pad2_ u1
a2 net-_q15-pad2_ net-_r15-pad2_ u2
* Schematic Name:                             zener, NgSpice Name: zener
.model u1 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u2 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Control Statements

.ends lm7805